US04675431
A mixture of 13.81 g. (0.1 moles) of diethyl phosphite, 20 ml. of water and 20 ml. of ethanol is reacted with a mixture of 10.31 g. (0.1 moles) of 3-ethoxypropyl amine and 30 ml. of ethanol as described in Example 1. 21.3 g. (99.9%) of 3-ethoxypropyl-ammoniumethyl phosphonate are obtained.

reactant | diethyl phosphite | 0.1 moles | P(OCC)(OCC)[O-]
reactant | water | O | H2O
reactant | 3-ethoxypropyl amine | 0.1 moles | C(C)OCCCN | C5H13NO
solvent | ethanol | C(C)O | C2H6O
product | 3-ethoxypropyl-ammoniumethyl phosphonate | 99.9% | C(C)P([O-])([O-])=O.C(C)OCCC[NH3+].C(C)OCCC[NH3+] | InChI=1S/2C5H13NO.C2H7O3P/c2*1-2-7-5-3-4-6;1-2-6(3,4)5/h2*2-6H2,1H3;2H2,1H3,(H2,3,4,5)
